US04172195
20 ml of ethane-1,2-diol are added dropwise at 50° C. to 11 g of residue and at the same time the 2-ethyl-1,3,2-dioxaborolane formed is distilled off in vacuo (10 Torr). The excess ethane-1,2-diol is removed in vacuo (10-3Torr, bath 80° C.). Approximately 40 ml of hexane are added to the highly viscous residue, the mixture is stirred for about 30 minutes and the white glucose is filtered off. 5 g (72%) of pure D-glucose are obtained after drying, mp. 146° C.

reactant | 2-ethyl-1,3,2-dioxaborolane | C(C)B1OCCO1 | C4H9BO2
reactant | ethane-1,2-diol | 20 ml | C(CO)O | C2H6O2
product | D-glucose | 5 g, 72% | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
